US04985432
A mixture of 31.7 g of the thus obtained 2-benzylthio-7-hydroxy-5H-1,3,4-thiadiazolo[3,2-a]-pyrimidin-5-one, 24.0 g of phosphorus pentachloride and 117 g of phosphorus oxychloride was heated to 70°-80° C. and stirred for 25 minutes. After cooling, the reaction mixture was concentrated under reduced pressure and chloroform and water were added to the residue. The organic layer was washed with an aqueous sodium hydrogen carbonate solution and water, and dried over anhydrous sodium sulfate. The solvent was distilled off and the residue was separated by silica gel column chromatography using an ethyl acetate/hexane mixture as an eluent, and thus 8.5 g of 2-benzylthio-7-chloro-5H-1,3,4-thiadiazolo[3,2-a]pyrimidin-5-one was obtained. m.p. 138°-140° C. Yield 25%.

reactant | 2-benzylthio-7-hydroxy-5H-1,3,4-thiadiazolo[3,2-a]-pyrimidin-5-one | C(C1=CC=CC=C1)SC1=NN2C(=NC(=CC2=O)O)S1 | C12H9N3O2S2
reactant | phosphorus pentachloride | 24.0 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | phosphorus oxychloride | 117 g | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 2-benzylthio-7-chloro-5H-1,3,4-thiadiazolo[3,2-a]pyrimidin-5-one | 8.5 g, Yield 25% | C(C1=CC=CC=C1)SC1=NN2C(=NC(=CC2=O)Cl)S1 | C12H8ClN3OS2
